US08377970B2
N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-2-(pyridin-4-yl)acetamide hydrochloride
Following the general procedure-1, N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-2-(pyridin-4-yl)acetamide (38 mg) was prepared from 2-(pyridin-4-yl)acetic acid (94 mg, 0.54 mmol) and intermediate 31 (120 mg, 0.45 mmol) as a pale-yellow solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min. Solid that separated out was filtered and dried to give the title compound (30 mg) as a brown solid. M.P. 135-139° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.93 (s, 1H), 8.85 (d, J 5.8, 2H), 8.01 (d, J 5.8, 2H), 7.81 (d, J 8.6, 2H), 7.58 (d, J 8.6, 2H), 6.59 (s, 1H), 4.13 (s, 2H), 1.83-1.74 (m, 1H), 0.99-0.91 (m, 2H), 0.83-0.76 (m, 2H). MS (m/z): 387.27 [M+H—HCl]+.

reactant | N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-2-(pyridin-4-yl)acetamide | 38 mg | C1(CC1)C1=CC(=NN1C1=CC=C(C=C1)NC(CC1=CC=NC=C1)=O)C(F)(F)F | C20H17F3N4O
reactant | 2-(pyridin-4-yl)acetic acid | 0.54 mmol, 94 mg | N1=CC=C(C=C1)CC(=O)O | C7H7NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-2-(pyridin-4-yl)acetamide hydrochloride | 30 mg | Cl.C1(CC1)C1=CC(=NN1C1=CC=C(C=C1)NC(CC1=CC=NC=C1)=O)C(F)(F)F | InChI=1S/C20H17F3N4O.ClH/c21-20(22,23)18-12-17(14-1-2-14)27(26-18)16-5-3-15(4-6-16)25-19(28)11-13-7-9-24-10-8-13;/h3-10,12,14H,1-2,11H2,(H,25,28);1H
